US09056873B2
In a 30 mL glass vial, tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (150 mg, 0.299 mmol), 4,4,5,5-tetramethyl-2-(phenylethynyl)-1,3,2-dioxaborolane (75 mg, 0.329 mmol) and PdCl2(PPh3)2 (105 mg, 0.150 mmol) were dissolved in dioxane (5 mL). To the reaction mixture was added 2N aqueous sodium carbonate solution (2 mL). The vessel was sealed with a cap and the reaction mixture was heated to 90° C. in an oil bath for 2 hours. The reaction mixture was subsequently diluted with water (10 mL) and extracted with EtOAc (2×25 mL). The combined organic phase was dried over sodium sulfate and evaporated to give the intermediate, tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-7-fluoro-3-oxo-4-(phenylethynyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate. The intermediate was dissolved in dichloromethane (3 mL), TFA (3 mL) was added, and the mixture was stirred for 1 hour. The volatiles were subsequently evaporated and the residual material was dissolved in DMSO (5 mL) and purified by preparative HPLC, eluting with a gradient of 15-50% ACN (0.035% TFA) and water (0.05% TFA). The pure product fractions were combined, evaporated to a minimal volume, and lyophilized to give the TFA salt of the title compound as a pale yellow solid (14.5 mg, 13%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.72 (m, 1H), 2.05-2.12 (m, 1H), 3.49-3.66 (m, 2H), 3.76 (d, J=11.62 Hz, 1H), 3.84-4.04 (m, 2H), 4.31-4.51 (m, 3H), 7.16-7.29 (m, 1H), 7.42-7.53 (m, 3H), 7.53-7.67 (m, 2H), 7.92 (br s, 3H), 8.50 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C20H19FN4O2, 367. found, 367.

reactant | tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.299 mmol, 150 mg | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C22H30ClFN4O6
reactant | 4,4,5,5-tetramethyl-2-(phenylethynyl)-1,3,2-dioxaborolane | 0.329 mmol, 75 mg | CC1(OB(OC1(C)C)C#CC1=CC=CC=C1)C | C14H17BO2
reactant | sodium carbonate | 2N, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | PdCl2(PPh3)2 | 0.150 mmol, 105 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-7-fluoro-3-oxo-4-(phenylethynyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C#CC1=CC=CC=C1)C(N(C2)C(=O)OC(C)(C)C)=O)F | C30H35FN4O6
